US06436923B1
A. N-(4-Fluorophenyl)-2-(3-methoxyphenyl)acetamide
The title compound was prepared as described in Example 1.A, using 3-methoxyphenylacetyl chloride (3.29 g, 18.0 mmol) and 4-fluoroaniline (1.98 g, 18.0 mmol) to afford the title compound (4.57 g, 98% yield): ES-MS (m/z) 259.

reactant | 3-methoxyphenylacetyl chloride | 18.0 mmol, 3.29 g | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
reactant | 4-fluoroaniline | 18.0 mmol, 1.98 g | FC1=CC=C(N)C=C1 | C6H6FN
product | N-(4-Fluorophenyl)-2-(3-methoxyphenyl)acetamide | 4.57 g, 98% yield | FC1=CC=C(C=C1)NC(CC1=CC(=CC=C1)OC)=O | C15H14FNO2
